US08486967B2
d) 7-Phenyl-6,7-dihydro-5H-[1,2,4]triazolo[5,1-b][1,3]oxazin-2-ylamine
To a solution of 2-nitro-7-phenyl-6,7-dihydro-5H-[1,2,4]triazolo[5,1-b][1,3]oxazine (174 mg, 707 μmol) in ethyl acetate (7 mL) was added 10% Pd on carbon (17.4 mg, 164 μmol). The reaction was hydrogenated at room temperature under an atmosphere of hydrogen over night. The catalyst was filtered off and washed with ethyl acetate. The title compound was obtained as a white solid (143.3 mg, 94%) after stirring with diethyl ether.

reactant | 2-nitro-7-phenyl-6,7-dihydro-5H-[1,2,4]triazolo[5,1-b][1,3]oxazine | 707 μmol, 174 mg | [N+](=O)([O-])C1=NN2C(OCCC2C2=CC=CC=C2)=N1 | C11H10N4O3
solvent | ethyl acetate | 7 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 164 μmol, 17.4 mg | [Pd] | Pd
product | 7-Phenyl-6,7-dihydro-5H-[1,2,4]triazolo[5,1-b][1,3]oxazin-2-ylamine | C1(=CC=CC=C1)C1N2C(OCC1)=NC(=N2)N | C11H12N4O
